US06897231B2
A. 5-[(1Z)-2-Phenylvinyl]-3-(4-fluorophenyl)-1H-indazole
A mixture of 3-(4-fluorophenyl)-5-(2-phenylethynyl)-1H-indazole (0.050 g, 0.16 mmol), quinoline (0.030 g), and palladium (5 wt. % on barium carbonate, 0.015 g) in ethyl acetate (10 mL) was stirred under hydrogen for 5 hours. It was filtered with celite and washed with ethyl acetate. The filtrate was washed with 5% hydrochloric acid solution and brine, dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 15-30% ethyl acetate/hexane) and by HPLC to provide the title compound (0.023 g, 46% yield): 1H NMR (CDCl3) δ 10.15 (br s, 1H), 7.83 (s, 1H), 7.70 (m, 2H), 7.29 (m, 7H), 7.11 (t, 2H), 6.72 (d, 1H), 6.68 (d, 1H); ES-MS (m/z) 315 [M+1]+.

reactant | 3-(4-fluorophenyl)-5-(2-phenylethynyl)-1H-indazole | 0.16 mmol, 0.050 g | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C#CC1=CC=CC=C1 | C21H13FN2
reactant | quinoline | 0.030 g | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.015 g | [Pd] | Pd
product | 5-[(1Z)-2-Phenylvinyl]-3-(4-fluorophenyl)-1H-indazole | 0.023 g, 46% yield | C1(=CC=CC=C1)\C=C/C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C21H15FN2
